US07432289B2
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (48 mg, 0.17 mmol), 3-fur-3-ylbenzoic acid (32 mg, 0.17 mmol), HATU (65 mg, 0.17 mmol), HOBT (23 mg, 0.17 mmol) and DIPEA (88 μl) were stirred in DMF (1.5 ml) for 18 h at room temperature. The reaction was partitioned between ethyl acetate (100 ml) and hydrochloric acid (0.5M, 20 ml), the organic phase washed with aqueous sodium hydrogen carbonate (saturated) and dried (magnesium sulphate). The solvent was evaporated under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-fur-3-ylbenzamide (61 mg, 79%). NMR; δH [2H6]—DMSO 10.16,(1H, s), 8.35,(1H, t), 8.22,(1H, s), 7-89,(2H, d), 7.79,(2H, t), 7.69-7.65,(2H, m), 7.56,(1H, s), 7.45,(1H, t), 7.35,(2H, d), 7.19,(1H, d), 6.85,(1H, d), 6.49,(1H, m), 3.17,(2H, t), 2.18,(3H, s), 1.04,(1H, m), 0.42,(2H, m), 0.22,(2H, m). LCMS: retention time 3.75 min, MH+451.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.17 mmol, 48 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 3-fur-3-ylbenzoic acid | 0.17 mmol, 32 mg | O1C=C(C=C1)C=1C=C(C(=O)O)C=CC1 | C11H8O3
reactant | HATU | 0.17 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 88 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-fur-3-ylbenzamide | 61 mg, 79% | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=CC=C1)C1=COC=C1)=O | C29H26N2O3
